US07238808B2
5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.15) (169 mg, 0.5 mmol) and 5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.22) (135 mg, 1.0 mmol) according to general procedure II. Obtained as an orange solid (20 mg, 7%). MS (ISN) 569.2 [(M−H)−]; mp 168° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC(=CC=C2)C(F)(F)F)F | C16H8F5N3
reactant | 5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 1.0 mmol, 135 mg | OCC(C)(C)NS(=O)(=O)C=1SC(=CC1)Cl | C8H12ClNO3S2
product | 5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C=1SC(=CC1)C#CC=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=CC=C2)C(F)(F)F | C24H19F5N4O3S2
